US09422281B2
A 1.5 mL reaction vial was charged with (S)-furan-2-yl(3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone (0.1M solution in 1,2-dichloroethane, 400 μL, 0.04 mmol). N,N-Diisopropylethylamine (50 μL, 0.28 mmol) was then added followed by the addition of methanesulfonic anhydride (0.035 g, 0.20 mmol) and 4-dimethylaminopyridine (4.89 mg, 0.040 mmol)). The reaction was heated on a heater shaker at 80° C. for 4 h. Benzoyl chloride (4.6 μL, 0.04 mmol) was added to the reaction mixture and the reaction was placed on a heater shaker at room temperature for 2 h. The reaction was diluted with ethyl acetate and washed with 1 N aqueous sodium hydroxide solution. The aqueous layer was separated and washed with ethyl acetate and the combined organic layers were concentrated under a stream of nitrogen. The crude product was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford (S)-furan-2-yl(3-methyl-4-(methylsulfonyl)-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone (0.0011 g, 5%). MS (ESI, pos. ion) m/z 575

reactant | (S)-furan-2-yl(3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone | 0.04 mmol, 0.1M, 400 μL | O1C(=CC=C1)C(=O)N1C[C@@H](NC2=CC=C(C=C12)C1=CC=C(C=C1)S(=O)(=O)C)C | C21H20N2O4S
reactant | N,N-Diisopropylethylamine | 0.28 mmol, 50 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonic anhydride | 0.20 mmol, 0.035 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | Benzoyl chloride | 0.04 mmol, 4.6 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-dimethylaminopyridine | 0.040 mmol, 4.89 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-furan-2-yl(3-methyl-4-(methylsulfonyl)-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone | 0.0011 g, 5% | O1C(=CC=C1)C(=O)N1C[C@@H](N(C2=CC=C(C=C12)C1=CC=C(C=C1)S(=O)(=O)C)S(=O)(=O)C)C | C22H22N2O6S2
